US04673674
(b) N-Methyl-3-phenyl-1H-indol-2-ethanamine
A cold solution of 8.6 ml sulphuric acid monohydrate in 85.6 ml tetrahydrofuran is added dropwise to a suspension of 12.1 g lithium aluminium hydride in 243 ml tetrahydrofuran at 0°. The mixture is stirred at 0° for 15 minutes and treated at 0° to 10° dropwise with 24.6 g 3-phenyl-1H-indol-2-ethanamine carbamic acid ethyl ester in 274 ml tetrahydrofuran. The mixture is heated under reflux for 45 minutes, then cooled to 0° and treated dropwise with 43 ml of a saturated sodium sulfate solution. 21 ml of 30% sodium hydroxide solution are further added and the mixture stirred for 1 hour. The mixture is filtered and the residue washed with ether. The filtrate is evaporated under reduced pressure and the residue cristallised from ether/pentane to give the heading compound, m.p. 148°-151°.

reactant | sulphuric acid monohydrate | 8.6 ml | O.S(O)(O)(=O)=O
reactant | lithium aluminium hydride | 12.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-phenyl-1H-indol-2-ethanamine carbamic acid ethyl ester | 24.6 g | C(C)OC(N)=O.C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)CCN
reactant | sodium sulfate | 43 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 21 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 85.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 243 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 274 ml | O1CCCC1 | C4H8O
product | N-Methyl-3-phenyl-1H-indol-2-ethanamine | CNCCC=1NC2=CC=CC=C2C1C1=CC=CC=C1 | C17H18N2
